US07645764B2
6-[5-(1H-Imidazol-2-yl)-2-methyl-phenyl]-8-methyl-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one was treated with OXONE™ following the procedure of step 3 of Example 1, and the resulting sulfonyl compound was treated with 4-amino-tetrahydropyran using the procedure of step 4 of Example 1, to give 2.5 mg of 6-[5-(1H-imidazol-2-yl)-2-methyl-phenyl]-8-methyl-2-(tetrahydro-pyran-4-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one: MS (M+H)=417.

reactant | 6-[5-(1H-Imidazol-2-yl)-2-methyl-phenyl]-8-methyl-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one | N1C(=NC=C1)C=1C=CC(=C(C1)C1=CC2=C(N=C(N=C2)SC)N(C1=O)C)C | C19H17N5OS
reactant | OXONE | OOS(=O)[O-].[K+]
reactant | 4-amino-tetrahydropyran | NC1CCOCC1 | C5H11NO
product | 6-[5-(1H-imidazol-2-yl)-2-methyl-phenyl]-8-methyl-2-(tetrahydro-pyran-4-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one | 2.5 mg | N1C(=NC=C1)C=1C=CC(=C(C1)C1=CC2=C(N=C(N=C2)NC2CCOCC2)N(C1=O)C)C | C23H24N6O2
